US05017724
53 Grams of 60% sodium hydride was gradually added to a solution prepared by dissolving 256.2 g of cyclohexyl 3,5-dimethyl-2-hydroxyphenyl ketone in 1 liter of dimethylformamide with stirring, generating the temperature of the reaction mixture was risen to 70° C. by generating the heat. After continuation of stirring for 30 minutes, the reaction mixture was cooled to room temperature and thereto was added dropwise 233 g of methyl iodide. The reaction mixture was further stirred at the same temperature for 2 hours and then added to 1 liter of ice water and stirred. The organic layer was extracted with 3 liters of ethyl acetate. The extract was washed with water and then with a saturated aqueous sodium chloride solution and then dried with anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 285.2 g of cyclohexyl 3,5-dimethyl-2-methoxyphenyl ketone.

reactant | sodium hydride | [H-].[Na+]
reactant | cyclohexyl 3,5-dimethyl-2-hydroxyphenyl ketone | 256.2 g | CC=1C(=C(C=C(C1)C)C(=O)C1CCCCC1)O | C15H20O2
reactant | methyl iodide | 233 g | CI | CH3I
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
product | cyclohexyl 3,5-dimethyl-2-methoxyphenyl ketone | 285.2 g | CC=1C(=C(C=C(C1)C)C(=O)C1CCCCC1)OC | C16H22O2
